US09353107B2
Step-iii: 3-(1-(3-fluorobenzyl)-3-methyl-1H-pyrazol-4-yl)-5-(3-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(3-(3-(1-(3-fluorobenzyl)-3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (83 mg, 0.146 mmol) was deprotected in methanol (5 ml), HCl in dioaxane (5 ml). This afforded 20 mg (27.1% yield) of the titled compound. 1H NMR (CD3OD, 400 MHz): δ 8.852-8.818 (m, 1H), 8.726-8.723 (d, 1H), 8.272 (s, 1H), 7.951 (s, 1H), 7.832-7.798 (d, 1H), 7.499-7.459 (t, 1H), 7.407-7.317 (m, 3H), 7.160-7.129 (m, 2H), 7.070-7.048 (m, 2H), 5.404 (s, 2H), 3.549-3.523 (m, 4H), 3.418-3.393 (m, 4H), 2.392 (s, 3H). MS: m/z=467.2 (M+1); HPLC: 94.845% in method A.

reactant | tert-butyl 4-(3-(3-(1-(3-fluorobenzyl)-3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.146 mmol, 83 mg | FC=1C=C(CN2N=C(C(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(C=CC3)N3CCN(CC3)C(=O)OC(C)(C)C)C)C=CC1 | C33H35FN6O2
reactant | HCl | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 3-(1-(3-fluorobenzyl)-3-methyl-1H-pyrazol-4-yl)-5-(3-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 20 mg, 27.1% yield | FC=1C=C(CN2N=C(C(=C2)C2=CNC3=NC=C(C=C32)C3=CC(=CC=C3)N3CCNCC3)C)C=CC1 | C28H27FN6
